US04119710
1-(4'-Amino-3'-bromo-5'-trifluoromethyl-phenyl)-2-cyclopropylamino-ethanol,
m.p. 141.5°-142.5° C., m.p. of the hydrochloride: 195°-195.5° C. (decomp.), was prepared from 4'-amino-3'-bromo-2-cyclopropylamino-5'-trifluoromethyl-acetophenone hydrochloride and sodium borohydride analogous to Example 1.

reactant | hydrochloride | Cl | ClH
reactant | 4'-amino-3'-bromo-2-cyclopropylamino-5'-trifluoromethyl-acetophenone hydrochloride | Cl.NC1=C(C=C(C=C1C(F)(F)F)C(CNC1CC1)=O)Br
reactant | sodium borohydride | [BH4-].[Na+]
product | 1-(4'-Amino-3'-bromo-5'-trifluoromethyl-phenyl)-2-cyclopropylamino-ethanol | NC1=C(C=C(C=C1C(F)(F)F)C(CNC1CC1)O)Br | C12H14BrF3N2O
